US06242443B1
6-Chloro-3-(N-ethyl-N-methylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,6-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (500 mg; 1.99 mmol) and N-ethyl-N-methylamine (500 mg; 8.47 mmol) and with the use of same procedure as in example 21 200 mg (36.7%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 10.35 (s, 1H, NH), 7.65 (d, 1H, H-8), 7.58 (dd, 1H, H-5), 7.3 (d, 1H, H-7), 3.5 (q, 2H, CH2), 3.11 (s, 3H, CH3), 1.14 (t, 3H, CH3). Analysis: C10H12ClN3O2S requires C, 43.88; H, 4.42; N, 15.35; (found C, 43.78; H, 4.51; N, 15.24).

reactant | 3,6-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.99 mmol, 500 mg | ClC1=NS(C2=C(N1)C=C(C=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | N-ethyl-N-methylamine | 8.47 mmol, 500 mg | C(C)NC | C3H9N
product | 6-Chloro-3-(N-ethyl-N-methylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C=CC2=C(NC(=NS2(=O)=O)N(C)CC)C1 | C10H12ClN3O2S
